US08211923B2
Diethyl {[(1-acetyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate
100 mg diethyl {[(3,5-dichloro-phenylsulphonyl)-(1H-indol-5-yl)-amino]-methyl}-phosphonate are dissolved in 1 ml acetic anhydride and refluxed overnight. After cooling to ambient temperature the mixture is divided between ethyl acetate and ice water. Then it is neutralised by the addition of saturated sodium hydrogen carbonate solution. The phases are separated and the organic phase is washed with saturated sodium hydrogen carbonate solution and saturated sodium chloride solution. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (petroleum ether/ethyl acetate 1:2 to 1:3).

reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(1H-indol-5-yl)-amino]-methyl}-phosphonate | 100 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2C=CNC2=CC1)CP(OCC)(OCC)=O | C19H21Cl2N2O5PS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Diethyl {[(1-acetyl-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-methyl}-phosphonate | C(C)(=O)N1C=CC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CP(OCC)(OCC)=O | C21H23Cl2N2O6PS
